US04496572
A solution of 2-methylbenzo[b]thiophene-7-carboxylic acid (5.1 g) in methanol (100 ml) was saturated with hydrogen chloride and then heated under reflux for 18 hours. The solution was evaporated and the residue was dissolved in ether. The ether solution was washed with sodium carbonate solution and dried (Na2SO4). Evaporation of the ether gave 2-methylbenzo[b]thiophene-7-carboxylic acid methyl ester (4.7 g), m.p. 48°-49°.

reactant | 2-methylbenzo[b]thiophene-7-carboxylic acid | 5.1 g | CC1=CC2=C(S1)C(=CC=C2)C(=O)O | C10H8O2S
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 100 ml | CO | CH4O
product | 2-methylbenzo[b]thiophene-7-carboxylic acid methyl ester | 4.7 g | COC(=O)C1=CC=CC2=C1SC(=C2)C | C11H10O2S
